US05141839
Hydrogen chloride was bubbled through cold octanol (25 g, 190 mmol) until a weight gain of 4.2 g had registered. Nicotinic acid N-oxide (5.29 g, 38 mmol) was then added and the resulting mixture was stirred and heated at 95°-100° C. for 3 hours and 40 minutes. The excess octanol was then removed by distillation at reduced pressure, and the residue of the distillation was taken up in dichloromethane. The dichloromethane solution was washed with aqueous sodium bicarbonate and then with water, dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was recrystallized from ligroine to give 7.73 g (31 mmol) of octyl nicotinate N-oxide, mp 69.5°-71° C.

reactant | Hydrogen chloride | Cl | ClH
reactant | octanol | 190 mmol, 25 g | C(CCCCCCC)O | C8H18O
reactant | Nicotinic acid N-oxide | 38 mmol, 5.29 g | C(C1=C[N+](=CC=C1)[O-])(=O)O | C6H5NO3
product | octyl nicotinate N-oxide | 31 mmol, 7.73 g | C(C1=C[N+](=CC=C1)[O-])(=O)OCCCCCCCC | C14H21NO3
